US08182718B2
Hof=N-(Pyridin-2-ylmethyl)pyridin-2-amine
To a flask were added 4.7 g of 2-aminopyridine, 5.35 g of 2-pyridinecarboxaldehyde, and 75 ml toluene. The flask was equipped with a Dean-Stark trap and heated to reflux under nitrogen. After 16 hours, the toluene was removed and 100 ml ethanol were added followed by 2.1 g of sodium borohydride. The mixture was stirred at 22 C under nitrogen for 1 hour, and then 50 ml of water were added slowly. Following removal of the ethanol, aqueous ammonium chloride was cautiously added resulting in gas evolution. The product was extracted twice with 50 ml ethyl acetate and washed with 30 ml water. After solvent removal, the product was purified by silica gel chromatography using 5% methanol in ethyl acetate resulting in an orange oil.

reactant | 2-aminopyridine | 4.7 g | NC1=NC=CC=C1 | C5H6N2
reactant | 2-pyridinecarboxaldehyde | 5.35 g | N1=C(C=CC=C1)C=O | C6H5NO
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | N-(Pyridin-2-ylmethyl)pyridin-2-amine | N1=C(C=CC=C1)CNC1=NC=CC=C1 | C11H11N3
